US05266485
Cultivation and reaction were carried out in the same way as described in Example 9 except that 2-chloro-1-(2',3',4'-trimethoxyphenyl) ethanone, 2-chloro-1-(3',4',5'-trimethoxyphenyl) ethanone were used as substrate and after completion of reaction, extraction was done twice using 300 ml of ethyl acetate. After dehydration of the ethyl acetate layer, the solvent was removed under reduced pressure, the resulting oily substance was refined by silica gel chromatography (hexane/ethyl acetate=7/1) and (-)-2-chloro-1-(2',3',4'-trimethoxyphenyl) ethanol, (-)-2-chloro-1-(3',4',5'-trimethoxyphenyl) ethanol were obtained. Their yield and specific rotation were as shown in Table 11.

reactant | 2-chloro-1-(2',3',4'-trimethoxyphenyl) ethanone | ClCC(=O)C1=C(C(=C(C=C1)OC)OC)OC | C11H13ClO4
reactant | 2-chloro-1-(3',4',5'-trimethoxyphenyl) ethanone | ClCC(=O)C1=CC(=C(C(=C1)OC)OC)OC | C11H13ClO4
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
product | (-)-2-chloro-1-(3',4',5'-trimethoxyphenyl) ethanol | ClCC(O)C1=CC(=C(C(=C1)OC)OC)OC | C11H15ClO4
